US04150153
Methyl 1-naphthyl ketone (10.1 g.), in 50 ml of a 1:1 mixture of chloroform and ethyl acetate is treated with 26.5 g. of copper (II) bromide. The resulting reaction mixture is heated under reflux with vigorous stirring until the evolution of hydrogen bromide ceases. When the reaction is complete the solvent is removed, ether is added and the copper (I) bromide is removed by filtration. Evaporation of the filtrate under reduced pressure yields crude bromomethyl 1-naphthyl ketone.

reactant | Methyl 1-naphthyl ketone | 10.1 g | C1(=CC=CC2=CC=CC=C12)C(=O)C | C12H10O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrogen bromide | Br | BrH
catalyst | copper (II) bromide | [Cu](Br)Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | bromomethyl 1-naphthyl ketone | C1(=CC=CC2=CC=CC=C12)C(=O)CBr | C12H9BrO
